US08557872B2
Step 2: Synthesis of 3-(4-fluoro-2-ethylamino-phenyl)-acrylic acid methyl ester
To a solution of N-methoxy-N-methyl-4-fluoro-2-ethylamino-benzamide (0.23 g, 1.02 mmol) in THF (4 mL) was added dropwise LiAlH4 (1 M in THF, 0.51 mL) at −45° C. The mixture was stirred for 40 minutes at −35° C. and then quenched by adding saturated aqueous KHSO4 solution. The mixture was diluted with EtOAc, washed with 3 N HCl, and brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was reacted with methyl (triphenylphosphoranylidene)acetate (375 mg, 1.12 mmol) in toluene (4 mL) overnight at 100° C. The mixture was washed with water, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure to give the title compound (0.13 g, 57%) after purification by column chromatography (EtOAc:hexane=1:10).

reactant | N-methoxy-N-methyl-4-fluoro-2-ethylamino-benzamide | 1.02 mmol, 0.23 g | CON(C(C1=C(C=C(C=C1)F)NCC)=O)C | C11H15FN2O2
reactant | LiAlH4 | 1 M, 0.51 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | methyl (triphenylphosphoranylidene)acetate | 1.12 mmol, 375 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(4-fluoro-2-ethylamino-phenyl)-acrylic acid methyl ester | 0.13 g, 57% | COC(C=CC1=C(C=C(C=C1)F)NCC)=O | C12H14FNO2
